US09328067B2
Methyl 4-(((4-chloro-2-(4-chloro-3-(trifluoromethyl)phenylsulfonamido)phenyl)thio)methyl)benzoate
Following General Procedure B, the title compound (635 mg, 66%) was prepared from 4-(((2-amino-4-chlorophenyl)thio)methyl)benzoate (535 mg, 1.74 mmol) and 4-chloro-3-(trifluoromethyl)benzene-1-sulfonyl chloride (486 mg, 1.74 mmol) in pyridine (5 ml).

reactant | 4-(((2-amino-4-chlorophenyl)thio)methyl)benzoate | 1.74 mmol, 535 mg | NC1=C(C=CC(=C1)Cl)SCC1=CC=C(C(=O)[O-])C=C1
reactant | 4-chloro-3-(trifluoromethyl)benzene-1-sulfonyl chloride | 1.74 mmol, 486 mg | ClC1=C(C=C(C=C1)S(=O)(=O)Cl)C(F)(F)F | C7H3Cl2F3O2S
reactant | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
product | Methyl 4-(((4-chloro-2-(4-chloro-3-(trifluoromethyl)phenylsulfonamido)phenyl)thio)methyl)benzoate | 635 mg, 66% | ClC1=CC(=C(C=C1)SCC1=CC=C(C(=O)OC)C=C1)NS(=O)(=O)C1=CC(=C(C=C1)Cl)C(F)(F)F | C22H16Cl2F3NO4S2
